US04435567
A solution of 0.6 g o-methoxyaniline and 0.7 ml triethylamine with 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide, under stirring. The reaction mixture was stirred at room temperature for 2 hours, then diluted with 100 ml water. The precipitated solid product was cooled, filtered, washed with water and dried. 0.80 g 1-phenyl-3-(4-methoxyphenyl)-urea was obtained, which melted at 196°-198° C.

reactant | o-methoxyaniline | 0.6 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
solvent | water | 100 ml | O | H2O
product | 1-phenyl-3-(4-methoxyphenyl)-urea | 0.80 g | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)OC | C14H14N2O2
